US03960152
Preparation of 3,3-dimethyl-1,4-dioxane-2,5-dione
To a flask containing two liters of chloroform, 1 mole of 2-hydroxy-isobutyric acid (104.1 gms.) and 2.2 moles of triethylamine (224 gms.), cooled in an ice bath, was slowly added 1 mole of chloroacetyl chloride (127 gms.). Addition took one hour. The chloroform was evaporated to yield a reddish semi-solid which was triturated several times with acetone followed by decantation of the reddish acetone extract. The white solid residue was triethylamine hydrochloride. The acetone extracts were combined and concentrated under vacuum to a red oil which was distilled under vacuum. The fraction distilling at 103°-110°C./0.7-0.9 torr. was collected. This fraction solidified to a green semi-solid which was recrystallized from isopropyl alcohol and then sublimed at 75°C./0.1 torr. to yield 15 grams of white solid, m.p. 82°-83°C. This was dissolved in 3000 ml. of benzene at 10°C. and extracted successively with three 300 ml. portions of 0.01 N HCl solution saturated with sodium chloride in a separatory funnel, and the benzene layer quickly dried by filtration through a bed of anhydrous sodium sulfate into a flask containing anhydrous magnesium sulfate. After the removal of the magnesium sulfate by filtration and the benzene under vacuum, the solid 3,3-dimethyl-1,4-dioxane-2,5-dione was recrystallized from isopropyl alcohol and sublimed at 75°C/0.1 torr. to yield 13 grams of solid, m.p. 85°-86°C., % C found = 50.00 vs. 50.00 calculated, % H found = 5.52 vs. 5.60 calculated.

reactant | 2-hydroxy-isobutyric acid | 1 mole, 104.1 gms | OC(C(=O)O)(C)C | C4H8O3
reactant | triethylamine | 2.2 moles, 224 gms | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 1 mole, 127 gms | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | two liters | C(Cl)(Cl)Cl | CHCl3
product | 3,3-dimethyl-1,4-dioxane-2,5-dione | 15 grams | CC1(C(OCC(O1)=O)=O)C | C6H8O4
